US06191164B1
a) 2,2-Dimethyl-4-chromanone oxime
A reaction mixture prepared from 10 mmol of 2,2-dimethyl-4-chromanone, 12 mmol of hydroxylamine hydrochloride in 5 ml of methanol and 5 ml of pyridine is heated with stirring over the course of 2 hours to 80-85° C., the solvent is distilled off on a rotary evaporator and the oily residue is crystallized under water.

reactant | 2,2-dimethyl-4-chromanone | 10 mmol | CC1(OC2=CC=CC=C2C(C1)=O)C | C11H12O2
reactant | hydroxylamine hydrochloride | 12 mmol | Cl.NO
solvent | methanol | 5 ml | CO | CH4O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-4-chromanone oxime | CC1(OC2=CC=CC=C2C(C1)=NO)C | C11H13NO2
